US07732460B2
(i) 1,1-dimethylethyl (1-{[(4R/S)-3-chloro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl]methyl}-4-piperidinyl)carbamate
A mixture of [(4R/S)-(3-chloro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl 4-methylbenzenesulfonate (465 mg, 1.15 mmol), 1,1-dimethylethyl 4-piperidinylcarbamate (218 mg, 1.1 mmol) and sodium carbonate (350 mg, 3.3 mmol) in ethanol (12.5 ml). After 1 day more 1,1-dimethylethyl 4-piperidinylcarbamate (100 mg) was added. After 1 hour the mixture was evaporated and the residue was partitioned between 20% methanol/dichloromethane and water. The organic extract was dried and evaporated. The crude material was chromatographed affording the product (410 mg, 82%).

reactant | (4R/S)-(3-chloro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl)methyl 4-methylbenzenesulfonate | 1.15 mmol, 465 mg | CC1=CC=C(C=C1)S(=O)(=O)OCC1(CN2C=3C1=C(C=NC3C=CC2=O)Cl)O | C18H15ClN2O5S
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 1.1 mmol, 218 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | sodium carbonate | 3.3 mmol, 350 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 100 mg | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | ethanol | 12.5 ml | C(C)O | C2H6O
product | 1,1-dimethylethyl (1-{[(4R/S)-3-chloro-4-hydroxy-7-oxo-4,5-dihydro-7H-pyrrolo[3,2,1-de]-1,5-naphthyridin-4-yl]methyl}-4-piperidinyl)carbamate | 410 mg, 82% | ClC=1C=NC=2C=CC(N3C2C1C(C3)(O)CN3CCC(CC3)NC(OC(C)(C)C)=O)=O | C21H27ClN4O4
